US09102674B2
Step D: Ethyl 2-(7-((3-chlorobenzyl)oxy)-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)acetate.
To crude tert-butyl 7-((3-chlorobenzyl)oxy)-3-(2-ethoxy-2-oxoethyl)-2-oxo-3,4-dihydroquinoline-1(2H)-carboxylate (115.7 g, 244.1 mmol) was added a 4.0 M 1,4-dioxane hydrochloride solution (200 mL, 0.8 mol) in an ice bath. After addition, the ice bath was removed and the reaction was warmed to ambient temperature. The reaction was concentrated to a yellow oil and azeotroped with toluene (2×250 mL) to furnish a brown oil. The oil was diluted in toluene (400 mL) followed by 2-propanol (400 mL). The resulting white ppt that was formed was filtered and washed with 2-propanol to furnish the desired product as a white solid. The mother liquor was concentrated to a brown solid that was triturated with 2-propanol (400 mL), filtered and washed with 2-propanol to furnish a second crop of product (38.3 g). The two crops were combined to give (50.3 g, 55%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 7.88 (s, 1H), 7.43 (s, 1H), 7.35-7.29 (m, 3H), 7.06 (d, J=8.3 Hz, 1H), 6.59 (dd, J=8.3, 2.4 Hz, 1H), 6.39 (d, J=2.4 Hz, 1H), 5.02 (s, 2H), 4.23-4.15 (m, 2H), 3.12-2.92 (m, 3H), 2.92-2.77 (m, 1H), 2.48 (dd, J=16.2, 7.5 Hz, 1H), 1.29 (t, J=7.1 Hz, 3H). [M+H]=374.2.

reactant | tert-butyl 7-((3-chlorobenzyl)oxy)-3-(2-ethoxy-2-oxoethyl)-2-oxo-3,4-dihydroquinoline-1(2H)-carboxylate | 244.1 mmol, 115.7 g | ClC=1C=C(COC2=CC=C3CC(C(N(C3=C2)C(=O)OC(C)(C)C)=O)CC(=O)OCC)C=CC1 | C25H28ClNO6
reactant | 1,4-dioxane hydrochloride | 0.8 mol, 4.0 M, 200 mL | Cl.O1CCOCC1
reactant | 2-propanol | 400 mL | CC(C)O | C3H8O
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(7-((3-chlorobenzyl)oxy)-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)acetate | ClC=1C=C(COC2=CC=C3CC(C(NC3=C2)=O)CC(=O)OCC)C=CC1 | C20H20ClNO4
